US05070089
Methyl 4-(2,3,4-trimethoxyphenylacetyl)-1-piperazinecarbodithioate (Com. No. 75)
In 6.2 ml of methylene chloride were dissolved 310 mg (1.37 mmol.) of 2,3,4-trimethoxyphenylacetic acid and 289 mg (1.64 mmol.) of methyl 1-piperazinecarbodithioate. To the solution was added 395 mg (1.92 mmol.) of dicyclohexylcarbodiimide. The mixture was stirred at room temperature for 1 hour. A precipitated solid was removed by filtration, and to the filtrate were added methylene chloride and 1-N hydrochloric acid. The organic solvent portion was taken out, washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and placed under reduced pressure to distill off the solvent. The residue was purified over a silica gel column. The obtained oil was crystallized from a mixture of ethanol and hexane, yielding 257 mg of the desired compound as a white crystalline product, m.p. 119°-120° C., yield 48.8%.

reactant | 2,3,4-trimethoxyphenylacetic acid | 1.37 mmol, 310 mg | COC1=C(C=CC(=C1OC)OC)CC(=O)O | C11H14O5
reactant | methyl 1-piperazinecarbodithioate | 1.64 mmol, 289 mg | N1(CCNCC1)C(=S)SC | C6H12N2S2
reactant | dicyclohexylcarbodiimide | 1.92 mmol, 395 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 6.2 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-(2,3,4-trimethoxyphenylacetyl)-1-piperazinecarbodithioate | 257 mg, yield 48.8% | COC1=C(C=CC(=C1OC)OC)CC(=O)N1CCN(CC1)C(=S)SC | C17H24N2O4S2
